US07612114B2
Pivalic acid (R)-6-{2-{[4-(2-tert-butoxycarbonylamino-2-methylpropoxy)benzoyl]ethoxycarbonylmethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester
Synthesized from pivalic acid (R)-6-[2-(ethoxycarbonylmethylamino)-4-methoxyphenyl]-5,6,7,8-tetrahydronaphthalen-2-yl ester (1.2 g) and 4-(2-tert-butoxycarbonylamino-2-methylpropoxy)benzoic acid (1.27 g) according to an analogous synthetic method to Preparation Example 154, the title compound (1.56 g) was obtained.

reactant | pivalic acid (R)-6-[2-(ethoxycarbonylmethylamino)-4-methoxyphenyl]-5,6,7,8-tetrahydronaphthalen-2-yl ester | 1.2 g | C(C)OC(=O)CNC1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C26H33NO5
reactant | 4-(2-tert-butoxycarbonylamino-2-methylpropoxy)benzoic acid | 1.27 g | C(C)(C)(C)OC(=O)NC(COC1=CC=C(C(=O)O)C=C1)(C)C | C16H23NO5
product | Pivalic acid (R)-6-{2-{[4-(2-tert-butoxycarbonylamino-2-methylpropoxy)benzoyl]ethoxycarbonylmethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 1.56 g | C(C)(C)(C)OC(=O)NC(COC1=CC=C(C(=O)CCOC(=O)CNC2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1)(C)C | C42H54N2O9
